US06011174
(3) Preparation of dimethyl 4-cyanomethylphthalate
1.30 g of dimethyl 4-hydroxymethylphthalate was dissolved in 15 ml of ethyl acetate, and 0.58 ml of methanesulfonyl chloride and 1.55 ml of triethylamine were added under cooling with ice with stirring, followed by stirring at room temperature overnight. Insoluble matters were filtered off, and then, the solvent was distilled off under reduced pressure. The residue was dissolved in 13 ml of dimethylformamide, and then, 0.54 g of sodium cyanide was added, followed by stirring at room temperature for 3 hours. The reaction solution was extracted by an addition of ethyl ether and water, and the organic layer was post-treated in accordance with a usual method. Then, the product was purified by silica gel column chromatography (hexane/ethyl acetate=2/1) to obtain 0.78 g of the above identified compound as a colorless oily substance.

reactant | dimethyl 4-hydroxymethylphthalate | 1.30 g | OCC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C11H12O5
reactant | methanesulfonyl chloride | 0.58 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.55 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | dimethyl 4-cyanomethylphthalate | C(#N)CC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C12H11NO4
